US08022223B2
5-(2-chloropyridin-4-ylthio)-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine dihydrochloride
A mixture of methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate (72 mg, 0.18 mmol), 2-chloro-4-nitropyridine (85.3 mg, 0.54 mmol) and DMSO (2.0 mL) and purged with nitrogen for 5 minutes. Potassium 2-methylpropan-2-olate (60.4 mg, 0.54 mmol) was added and stirred for 30 minutes. The reaction was poured into aqueous NH4Cl and extracted with EtOAc (1×20 mL). The organic phase was washed with water, dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (25% EtOAc in hexanes) to afford the title compound (37.1 mg, 41.4% yield) as a white solid after HCl salt formation. 1H NMR (CDCl3) δ 12.89 (bs, 1H), 8.24 (m, 2H), 8.17 (d, 1H), 7.43 (t, 2H), 7.31 (d, 1H), 7.28-7.18 (m, 3H), 6.88 (s, 1H), 6.84 (m, 1H), 6.53 (s, 1H), 3.93 (s, 1H), 2.50 (s, 3H). Mass spectrum (apci) m/z=427.2 (M+H-2HCl).

reactant | methyl 3-(6-(4-methylthiazol-2-ylamino)-5-phenoxypyridin-3-ylthio)propanoate | 0.18 mmol, 72 mg | CC=1N=C(SC1)NC1=C(C=C(C=N1)SCCC(=O)OC)OC1=CC=CC=C1 | C19H19N3O3S2
reactant | 2-chloro-4-nitropyridine | 0.54 mmol, 85.3 mg | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | Potassium 2-methylpropan-2-olate | 0.54 mmol, 60.4 mg | CC(C)(C)[O-].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | Cl | ClH
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
product | 5-(2-chloropyridin-4-ylthio)-N-(4-methylthiazol-2-yl)-3-phenoxypyridin-2-amine dihydrochloride | 37.1 mg, 41.4% yield | Cl.Cl.ClC1=NC=CC(=C1)SC=1C=C(C(=NC1)NC=1SC=C(N1)C)OC1=CC=CC=C1 | InChI=1S/C20H15ClN4OS2.2ClH/c1-13-12-27-20(24-13)25-19-17(26-14-5-3-2-4-6-14)9-16(11-23-19)28-15-7-8-22-18(21)10-15;;/h2-12H,1H3,(H,23,24,25);2*1H
